US06420359B1
i) 5,11-Dihydro-11-ethyl-2-fluoro-5-methyl-8{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
Diethyl azodicarboxylate (DEAD) (14.3 mL, 91.0 mmol) was added drop-wise to a solution of 5,11-dihydro-11-ethyl-2-fluoro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (19.2 g, 60.7 mmol), 4-hydroxyquinoline (13.2 g, 91.0 mmol) and Ph3P (23.9 g, 91.0 mmol) in THF (300 mL) at room temperature. The mixture was stirred at room temperature for 1 h then was concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc:MeOH; 95:5) to give the title compound (17.9 g, 67% yield) as a white solid: MS (ESI) m/z 444 (M)+.

reactant | Diethyl azodicarboxylate | 91.0 mmol, 14.3 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5,11-dihydro-11-ethyl-2-fluoro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 60.7 mmol, 19.2 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCO)=O)C)C=CC(=N2)F | C16H17FN4O2
reactant | 4-hydroxyquinoline | 91.0 mmol, 13.2 g | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | Ph3P | 91.0 mmol, 23.9 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 5,11-Dihydro-11-ethyl-2-fluoro-5-methyl-8{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 17.9 g, 67% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C)C=CC(=N2)F | C25H22FN5O2
